US07915424B2
5-(4-Fluoro-3-methoxyphenylethynyl)-nicotinonitrile
Dissolve 5-(3-hydroxy-4-fluorophenylethynyl)-nicotinonitrile, (prepared essentially as described in EXAMPLE 77), (150 mg, 0.63 mmol) in anhydrous acetonitrile (5 mL) and sequentially add iodomethane (59 μL, 0.95 mmol) and potassium carbonate (174 mg, 1.26 mmol). Stir at room temperature for 12 h, dilute with an aqueous saturated solution of sodium carbanate and extract with dichloromethane. Sequentially wash the organic layer with water and an aqueous saturated solution of sodium chloride, dry (magnesium sulfate), filter and concentrate. Purify by silica gel chromatography, eluting with 30:70 ethyl acetate:hexanes, to give the title compound (70 mg, 44%) as white solid.

reactant | 5-(3-hydroxy-4-fluorophenylethynyl)-nicotinonitrile | OC=1C=C(C=CC1F)C#CC=1C=NC=C(C#N)C1 | C14H7FN2O
reactant | iodomethane | 0.95 mmol, 59 μL | IC | CH3I
reactant | potassium carbonate | 1.26 mmol, 174 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | sodium carbanate | C(=O)[O-].[Na+]
product | 5-(4-Fluoro-3-methoxyphenylethynyl)-nicotinonitrile | 70 mg, 44% | FC1=C(C=C(C=C1)C#CC=1C=NC=C(C#N)C1)OC | C15H9FN2O
